US06306787B1
In this way, the reaction was conducted for 48 hours while continuously adding the aqueous solution of mixture of nickel nitrate, cobalt nitrate and aluminum nitrate, aqueous ammonia and the aqueous solution of sodium hydroxide to the reactor and continuously taking the resulting reaction mixture (slurry) out of the reactor. After 48 hours from the start of the reaction, the resulting slurry was filtered, washed with water and dried to provide a powder of nickel cobalt aluminum hydroxide.

reactant | nickel nitrate | [N+](=O)([O-])[O-].[Ni+2].[N+](=O)([O-])[O-]
reactant | cobalt nitrate | [N+](=O)([O-])[O-].[Co+2].[N+](=O)([O-])[O-]
reactant | aluminum nitrate | [N+](=O)([O-])[O-].[Al+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | ammonia | N | H3N
reactant | sodium hydroxide | [OH-].[Na+]
product | nickel cobalt aluminum hydroxide | [OH-].[Al+3].[Co+2].[Ni+2].[OH-].[OH-].[OH-].[OH-].[OH-].[OH-] | InChI=1S/Al.Co.Ni.7H2O/h;;;7*1H2/q+3;2*+2;;;;;;;/p-7
